US05998433
b) Synthesis of 6-[4-(1-phenylcyclopropyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 0.454 g (1.322 mmol) of 6-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.17 ml (1.98 mmol) of pyrrolidine and 0.16 g (1.98 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 1.322 mmol, 0.454 g | C1(=CC=CC=C1)C1(CC1)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C23H21NO2
reactant | pyrrolidine | 1.98 mmol, 0.17 ml | N1CCCC1 | C4H9N
reactant | formaldehyde | 1.98 mmol, 0.16 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(1-phenylcyclopropyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C1(=CC=CC=C1)C1(CC1)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | C28H30N2O2
